US05905084
6-methoxy-3-nitro-2-picoline
0.46 gm (20 mMol) sodium were dissolved in 15 mL anhydrous methanol. To this solution were added 2.3 gm 6-chloro-3-nitro-2-picoline in portions. The resulting mixture was stirred for 18 hours at room temperature and then 1 hour at reflux. The reaction mixture was poured into 100 mL of ice water with vigorous stirring. The suspension was filtered and the solid dried at 30° C. under reduced pressure for 18 hours to provide 2.04 gm (91%) of the desired compound as a tan solid.

reactant | sodium | 20 mMol, 0.46 gm | [Na] | Na
reactant | 6-chloro-3-nitro-2-picoline | 2.3 gm | ClC1=CC=C(C(=N1)C)[N+](=O)[O-] | C6H5ClN2O2
reactant | methanol | 15 mL | CO | CH4O
product | 6-methoxy-3-nitro-2-picoline | 2.04 gm, 91% | COC1=CC=C(C(=N1)C)[N+](=O)[O-] | C7H8N2O3
